US07335660B2
b) [(5-Bromo-1,2-dihydro-1-acenaphthylenyl)oxy](tert-butyl)diphenylsilane
To 5-bromo-1,2-dihydro-1-acenaphthylenol (0.25 g, 1 mmol) in dry THF (30 mL) was added chloro(tert-butyl)diphenylsilane (0.275 g, 1 mmol) and imidazole (0.34 g, 5 mmol), and the reaction stirred at room temperature under nitrogen for 18 h. The mixture was diluted with diethyl ether, filtered through a pad of silica, and evaporated in vacuo. Purification by flash chromatography on silica, eluting with ethyl acetate/hexane (1:9 to 1:1), yielded the title compound as a colourless oil.

reactant | 5-bromo-1,2-dihydro-1-acenaphthylenol | 1 mmol, 0.25 g | BrC1=CC=C2CC(C=3C=CC=C1C32)O | C12H9BrO
reactant | chloro(tert-butyl)diphenylsilane | 1 mmol, 0.275 g | Cl[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C16H19ClSi
reactant | imidazole | 5 mmol, 0.34 g | N1C=NC=C1 | C3H4N2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | [(5-Bromo-1,2-dihydro-1-acenaphthylenyl)oxy](tert-butyl)diphenylsilane | BrC1=CC=C2CC(C=3C=CC=C1C32)O[Si](C3=CC=CC=C3)(C3=CC=CC=C3)C(C)(C)C | C28H27BrOSi
